US07659245B2
7-Methoxy-6-methyl-2-phenyl-quinazoline-4-ol (112)
To a mixture of compound III (1.8 g, 10 mmol), benzoic acid (1.46 g, 12 mmol) and hobt-hydrate (1.87 g, 12 mmol) in dry DMF (60 ml) was added EDAC (2.4 g, 12.5 mmol) and TEA (1.75 ml, 12.5 mmol) and the mixture was stirred at room temperature for 60 h. 5% Citric acid was added and the mixture was evaporated three times with ethyl acetate. The organic phase was washed with brine and saturated sodium hydrogen carbonate solution. The organic phase was dried with sodium sulphate and evaporated under reduced pressure. The residue was refluxed for two hours with sodium carbonate (2.65 g, 25 mmol) in 100 ml ethanol-water 1/1.5% Citric acid was added and the mixture was extracted three times with ethyl acetate including 10% THF. Silica gel was added, the solvent was evaporated and the product was purified by column chromatography on silica gel eluted with hexane-ethyl acetate.

reactant | benzoic acid | 12 mmol, 1.46 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | EDAC | 12.5 mmol, 2.4 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | Citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium carbonate | 25 mmol, 2.65 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | 1-bromo-3-methylbutan-2-one | 100 ml | BrCC(C(C)C)=O | C5H9BrO
product | 7-Methoxy-6-methyl-2-phenyl-quinazoline-4-ol | COC1=C(C=C2C(=NC(=NC2=C1)C1=CC=CC=C1)O)C | C16H14N2O2
